US07544703B2
4-Chloromethyl-2-fluoropyridine (Reference Compound No. 1-1)
N-Chlorosuccinimide (8.8 g, 66 mmol), acetic acid (0.15 mL) and benzoyl peroxide (220 mg, 0.91 mmol) were added to a solution of 2-fluoro-4-picoline (5.0 g, 45 mmol) in acetonitrile (25 mL) at room temperature, and the mixture was refluxed for 2 hours. The reaction mixture was cooled to room temperature, water (200 mL) was added thereto, and then the mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with brine (200 mL) and dried over anhydrous magnesium sulfate. The organic layer was evaporated under reduced pressure, hexane/ethyl acetate (1:1) was added to the resulting residue, and then the insoluble matter was filtered out. The filtrate was evaporated under reduced pressure to give 6.5 g of the title reference compound as a crude product.

reactant | N-Chlorosuccinimide | 66 mmol, 8.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | acetic acid | 0.15 mL | C(C)(=O)O | C2H4O2
reactant | benzoyl peroxide | 0.91 mmol, 220 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-fluoro-4-picoline | 45 mmol, 5.0 g | FC1=NC=CC(=C1)C | C6H6FN
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | water | 200 mL | O | H2O
product | 4-Chloromethyl-2-fluoropyridine | ClCC1=CC(=NC=C1)F | C6H5ClFN
